US07012075B2
To 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucinate (1.19 g, 2.89 mmol) in MeOH (60 mL) was added dropwise an aqueous LiOH solution (1.0 M, 14.5 mL, 14.5 mmol) and the reaction was stirred for ½ hour. The reaction was acidified (pH=4–5) with aqueous 10% HCl and the product extracted with EtOAc (3×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (Hex/EtOAc/AcOH, 70/29/1, then 50/49/1) to afford N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucine.

reactant | 4-methoxybenzyl N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucinate | 2.89 mmol, 1.19 g | BrC=1C(=NN(C1)C)N[C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC | C18H24BrN3O3
reactant | LiOH | 14.5 mmol, 1.0 M, 14.5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
product | N-(4-bromo-1-methyl-1H-pyrazol-3-yl)leucine | BrC=1C(=NN(C1)C)N[C@@H](CC(C)C)C(=O)O | C10H16BrN3O2
